US06440995B1
(RS)-1-Amino-3-(2-naphthalen-2-yl-quinolin-4-ylamino)-propan-2-ol hydrochloride
The title compound, m.p. 288-291° C., MS: m/e=343 (M+), was prepared 4-chloro-2-naphthalen-2-yl-quinoline and 1,3-diamino-2-propanol.

reactant | 4-chloro-2-naphthalen-2-yl-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC2=CC=CC=C2C=C1 | C19H12ClN
reactant | 1,3-diamino-2-propanol | NCC(CN)O | C3H10N2O
product | (RS)-1-Amino-3-(2-naphthalen-2-yl-quinolin-4-ylamino)-propan-2-ol hydrochloride | Cl.NCC(CNC1=CC(=NC2=CC=CC=C12)C1=CC2=CC=CC=C2C=C1)O | InChI=1S/C22H21N3O.ClH/c23-13-18(26)14-24-22-12-21(25-20-8-4-3-7-19(20)22)17-10-9-15-5-1-2-6-16(15)11-17;/h1-12,18,26H,13-14,23H2,(H,24,25);1H
